US06008243
To a mixture of crude 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)-1H-pyrrol-3-yl]-ethanone (1.82 mmol) and 10% palladium on carbon (120 mg) in EtOAc (4.5 mL) and EtOH (4.5 mL) was added ammonium formate (0.58 g, 9.2 mmol). After 40 hours at ambient temperature, the resultant mixture was filtered and the filtrate concentrated to a residue which was dissolved in EtOAc, washed with 1M pH 7 phosphate buffer, dried over Na2SO4, and evaporated under reduced pressure to give a crude product. Flash column chromatography with 0-4% EtOAc/CH2Cl2 gradient eluant yielded 220 mg (43%) of 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)-1H-pyrrol-3-yl]-ethanone as a pale yellow amorphous solid. 1H NMR: δ 7.62 (t, 4H, J=9.4 Hz), 7.47 (d, 2H, J=7.4 Hz), 7.42 (d, 2H, J=8.5 Hz), 7.35 (t, 2H, J=6.6 Hz), 730-7.21 (m, 4H), 7.08 (t, 1H, J=2.6 Hz), 7.05 (s, 1H), 6.28 (t, 1H, J=2.21 Hz), 4.16-4.10 (m, 1H), 3.82 (m, 2H), 3.62, 3.54 (AB quartet, 2H, J=15.5 Hz), 3.07 (dd, 1H, J=3.9, 13.8 Hz), 2.91 (dd, 1H, J=9.9, 13.6 Hz), 1.78 (s, 3H), 1.59 (s, 3H). Anal. Calculated for C30H30N2O2.0.25 H2O: C, 79.18; H, 6.76; N, 6.16. Found: C, 79.24; H, 6.79; N, 6.12.

reactant | 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)-1H-pyrrol-3-yl]-ethanone | 1.82 mmol | C(C)(=O)OC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)(C)C)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C32H32N2O4
reactant | ammonium formate | 9.2 mmol, 0.58 g | C(=O)[O-].[NH4+]
reactant | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
catalyst | palladium on carbon | 120 mg | [Pd] | Pd
solvent | EtOAc | 4.5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 4.5 mL | CCO | C2H6O
product | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-[1-(biphenyl-4-yl)-1H-pyrrol-3-yl]-ethanone | 220 mg, 43% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(CC1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H30N2O2
